US04209621
7-Phenyl-1,2,4-triazolo[4,3-a]pyrimidine
A mixture of 2.0 g. of 2-hydrazino-4-phenylpyrimidine and 25 ml. of triethyl orthoformate is refluxed for 6 hours. On cooling the desired compound is removed by filtration, m.p. 232°-234° C. [This compound is cited J. Chem. Soc. Japan, Ind. Chem. Sect. 58, 440 (1955) as having m.p. 192° C. No description or preparation procedures are given.]

reactant | 2-hydrazino-4-phenylpyrimidine | N(N)C1=NC=CC(=N1)C1=CC=CC=C1 | C10H10N4
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 7-Phenyl-1,2,4-triazolo[4,3-a]pyrimidine | C1(=CC=CC=C1)C1=NC=2N(C=C1)C=NN2 | C11H8N4
